US07012081B2
214 mg (1 mmol) of ethyl-4,4-(ethylenedioxy)cyclohexanecarboxylate is cooled in 15 ml of toluene under argon and in a moisture-free environment to −78° C., and it is mixed drop by drop with 0.85 ml of a 1.2 molar solution of diisobutyl aluminum hydride (DIBAH) in toluene. After 15 minutes of stirring at this temperature, it is mixed with about 10 ml of a saturated ammonium chloride solution. The organic phase is separated, washed with saturated common salt solution, dried, filtered and concentrated by evaporation. 148 mg (85% of theory) of 4,4-(ethylenedioxy)cyclohexane carbaldehyde is obtained.

reactant | ethyl-4,4-(ethylenedioxy)cyclohexanecarboxylate | 1 mmol, 214 mg | C(C)C1(CCC2(CC1)OCCO2)C(=O)[O-]
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | about 10 ml | [Cl-].[NH4+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4-(ethylenedioxy)cyclohexane carbaldehyde | 148 mg, 85% | C1OC2(CCC(CC2)C=O)OC1 | C9H14O3
